US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-7-fluoroquinazoline was reacted with 5-aminoindole to give 7-fluoro-4-(5-indolylamino)quinazoline hydrochloride in 65% yield;

reactant | 4-chloro-7-fluoroquinazoline | ClC1=NC=NC2=CC(=CC=C12)F | C8H4ClFN2
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | 7-fluoro-4-(5-indolylamino)quinazoline hydrochloride | 65% yield | Cl.FC1=CC=C2C(=NC=NC2=C1)NC=1C=C2C=CNC2=CC1 | InChI=1S/C16H11FN4.ClH/c17-11-1-3-13-15(8-11)19-9-20-16(13)21-12-2-4-14-10(7-12)5-6-18-14;/h1-9,18H,(H,19,20,21);1H
